US07582630B2
4-(6-Methoxypyrazolo[1,5-b]pyridazin-3-yl)-N-[4-(4-methyl-1-piperazinyl)phenyl]-2-pyrimidinamine
To a solution (2E)-3-(dimethylamino)-1-(6-methoxypyrazolo[1,5-b]pyridazin-3-yl)-2-propen-1-one (40 mg, 0.16 mmol) in DMF (2.0 mL) was added N-[4-(4-methyl-1-piperazinyl)phenyl]guanidine.HCl (99 mg, 0.32 mmol) and potassium carbonate (112 mg, 0.80 mmol). The reaction was heated at an oil bath temperature of 130° C. for about 18 hours. The mixture was cooled to RT and the solvent was removed in vacuo. The residue was dissolved in chloroform and filtered. The filtrate was concentrated in vacuo then disolved in CH2Cl2 and triturated with diethylether to give the title compound as a yellow solid (12 mg, 18%). 1H-NMR (400 MHz, CDCl3) δ 8.67 (d, 1H, J=9.5 Hz), 8.35 (d, 1H, J=5.2 Hz), 8.29 (s, 1H), 7.46 (d, 2H, J=8.9 Hz), 6.98 (m, 3H), 6.90 (s, 1H), 6.75 (d, 1H, J=9.5 Hz), 4.09 (s, 3H), 3.23 (m, 4H), 2.64 (m, 4H), 2.39 (s, 3H); MS (ESI) (M+H)+ 417.

reactant | (2E)-3-(dimethylamino)-1-(6-methoxypyrazolo[1,5-b]pyridazin-3-yl)-2-propen-1-one | 0.16 mmol, 40 mg | CN(/C=C/C(=O)C=1C=NN2N=C(C=CC21)OC)C | C12H14N4O2
reactant | N-[4-(4-methyl-1-piperazinyl)phenyl]guanidine | CN1CCN(CC1)C1=CC=C(C=C1)NC(=N)N | C12H19N5
reactant | HCl | 0.32 mmol, 99 mg | Cl | ClH
reactant | potassium carbonate | 0.80 mmol, 112 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4-(6-Methoxypyrazolo[1,5-b]pyridazin-3-yl)-N-[4-(4-methyl-1-piperazinyl)phenyl]-2-pyrimidinamine | 12 mg, 18% | COC=1C=CC=2N(N1)N=CC2C2=NC(=NC=C2)NC2=CC=C(C=C2)N2CCN(CC2)C | C22H24N8O
